US07652008B2
(3R*,4S*)-7-chloro-2,2,9-trimethyl-4-pentylamino-3,4-dihydro-2H-pyrano[2,3-g]quinolin-3-ol hydrochloride
To a solution of (3R*,4S*)-7-chloro-2,2,9-trimethyl-4-pentylamino-3,4-dihydro-2H-pyrano[2,3-g]quinolin-3-ol (28 mg, 0.77 mmol) in ether (560 μL), 4 M hydrogen chloride solution in ether (56 μL) was added dropwise, and the resulting mixture was stirred at 0° C. for 15 minutes. Solid product was filtered off, washed with ether and dried to obtain the aimed product (yield: 88%).

reactant | (3R*,4S*)-7-chloro-2,2,9-trimethyl-4-pentylamino-3,4-dihydro-2H-pyrano[2,3-g]quinolin-3-ol | 0.77 mmol, 28 mg | ClC1=NC=2C=C3C(=CC2C(=C1)C)OC([C@@H]([C@H]3NCCCCC)O)(C)C | C20H27ClN2O2
solvent | ether | 560 μL | CCOCC | C4H10O
solvent | hydrogen chloride | 4 M | Cl | ClH
solvent | ether | 56 μL | CCOCC | C4H10O
product | (3R*,4S*)-7-chloro-2,2,9-trimethyl-4-pentylamino-3,4-dihydro-2H-pyrano[2,3-g]quinolin-3-ol hydrochloride | yield: 88% | Cl.ClC1=NC=2C=C3C(=CC2C(=C1)C)OC([C@@H]([C@H]3NCCCCC)O)(C)C | InChI=1S/C20H27ClN2O2.ClH/c1-5-6-7-8-22-18-14-10-15-13(12(2)9-17(21)23-15)11-16(14)25-20(3,4)19(18)24;/h9-11,18-19,22,24H,5-8H2,1-4H3;1H/t18-,19+;/m0./s1
